US07741321B2
To a suspension of t-BuOK (25.3 g, 0.207 mol) in THF (150 mL) was added a solution of TosMIC (20.3 g, 0.104 mol) in THF (50 mL) at −78° C. The mixture was stirred for 15 minutes, treated with a solution of 3-fluoro-4-methoxy-benzaldehyde (8.00 g, 51.9 mmol) in THF (50 mL) dropwise, and continued to stir for 1.5 hours at −78° C. To the cooled reaction mixture was added methanol (50 mL). The mixture was heated at reflux for 30 minutes. Solvent of the reaction mixture was removed to give a crude product, which was dissolved in water (200 mL). The aqueous phase was extracted with EtOAc (100 mL×3). The combined organic layers were dried and evaporated under reduced pressure to give crude product, which was purified by column chromatography (Petroleum Ether/EtOAc 10:1) to afford 2-(3-fluoro-4-methoxyphenyl)acetonitrile (5.0 g, 58%). 1H NMR (400 MHz, CDCl3) δ 7.02-7.05 (m, 2H), 6.94 (t, J=8.4 Hz, 1H), 3.88 (s, 3H), 3.67 (s, 2H). 13C NMR (100 MHz, CDCl3) δ 152.3, 147.5, 123.7, 122.5, 117.7, 115.8, 113.8, 56.3, 22.6.

reactant | t-BuOK | 0.207 mol, 25.3 g | CC(C)(C)[O-].[K+]
reactant | TosMIC | 0.104 mol, 20.3 g | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | 3-fluoro-4-methoxy-benzaldehyde | 51.9 mmol, 8.00 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | methanol | 50 mL | CO | CH4O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 2-(3-fluoro-4-methoxyphenyl)acetonitrile | 5.0 g, 58% | FC=1C=C(C=CC1OC)CC#N | C9H8FNO
